US04609670
A solution of 4.22 g (0.02 mol) of 1-bromo-2-(2-methylphenyl)-2-oxoethane, 2.64 g (0.032 mol) of 1-methylimidazole and 60 ml of diethyl ether was stirred at room temperature for approximately 17 hours. The reaction solvent was decanted and the residue was washed with diethyl ether. The residue was dissolved in hot acetonitrile, and the resulting solution was cooled and diluted with diethyl ether. The solid was collected and recrystallized twice from acetonitrile/diethyl ether to afford 1.99 g of 1-methyl-3-[2-(2-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide as white needles. (34% yield) mp=152°-154° C.

reactant | 1-bromo-2-(2-methylphenyl)-2-oxoethane | 0.02 mol, 4.22 g | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
reactant | 1-methylimidazole | 0.032 mol, 2.64 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 1-methyl-3-[2-(2-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide | 1.99 g, 34% yield | [Br-].C[NH+]1CN(C=C1)CC(=O)C1=C(C=CC=C1)C | InChI=1S/C13H16N2O.BrH/c1-11-5-3-4-6-12(11)13(16)9-15-8-7-14(2)10-15;/h3-8H,9-10H2,1-2H3;1H
